US03991064
1,2,3,4-Tetrahydro-3-benzoyl-8,9-dimethoxy-6-(2-piperidinoethyl)benzo[c][2,7]naphthyridin-5(6H)-one.
A suspension of 0.066 m NaH in 75 cc dimethylsulfoxide was cooled in a cold water bath and treated portionwise with 10 g (0.028 m) of 3-benzoyl-1,2,3,4-tetrahydro-8,9-dimethoxy-benzo[c][2,7]naphthyridin-5(6H)-one in 10 min. After stirring for 5 min the reaction was treated with 5.5 g (0.03 m) of N-(2-chloroethyl)piperidine hydrochloride in 2 min. After stirring an additional 2 hr the reaction was diluted with water to 800 ml to give 11.5 g of crude solid product, used as is for hydrolysis.

reactant | NaH | [H-].[Na+]
reactant | 3-benzoyl-1,2,3,4-tetrahydro-8,9-dimethoxy-benzo[c][2,7]naphthyridin-5(6H)-one | 10 g | C(C1=CC=CC=C1)(=O)N1CCC=2C3=C(NC(C2C1)=O)C=C(C(=C3)OC)OC | C21H20N2O4
reactant | N-(2-chloroethyl)piperidine hydrochloride | 5.5 g | Cl.ClCCN1CCCCC1
solvent | dimethylsulfoxide | 75 cc | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-3-benzoyl-8,9-dimethoxy-6-(2-piperidinoethyl)benzo[c][2,7]naphthyridin-5(6H)-one | 11.5 g | C(C1=CC=CC=C1)(=O)N1CCC=2C3=C(N(C(C2C1)=O)CCN1CCCCC1)C=C(C(=C3)OC)OC | C28H33N3O4
